US04229462
To 37.1 grams (0.1 mole) of methyl N'-{[(3-chlorophenyl)amino]carbonyl}-carbamimidothioate hydroiodide thus prepared is added 6.0 grams (0.1 mole) of ethylenediamine in 100 milliliters of methanol and the resulting mixture allowed to heat under reflux for five hours. The resulting reaction mixture is evaporated to dryness in vacuo and diluted with tertiary-butyl alcohol to obtain crystals of N-(3-chlorophenyl)-N'-(2-imidazolidinylidene) urea hydroiodide product as a crystalline solid. The crystals are recrystallized from tertiary butyl alcohol several times to obtain a purified product, m.p. 192°-194° C. (dec.).

reactant | methyl N'-{[(3-chlorophenyl)amino]carbonyl}-carbamimidothioate hydroiodide | 0.1 mole, 37.1 grams | I.ClC=1C=C(C=CC1)NC(=O)N=C(N)SC
reactant | ethylenediamine | 0.1 mole, 6.0 grams | C(CN)N | C2H8N2
solvent | methanol | 100 milliliters | CO | CH4O
product | N-(3-chlorophenyl)-N'-(2-imidazolidinylidene) urea hydroiodide | I.ClC=1C=C(C=CC1)NC(=O)N=C1NCCN1 | InChI=1S/C10H11ClN4O.HI/c11-7-2-1-3-8(6-7)14-10(16)15-9-12-4-5-13-9;/h1-3,6H,4-5H2,(H3,12,13,14,15,16);1H
